US04328202
27.8 g of 5-cyano-3-hydroxymethyl-2,4,6-triiodobenzoic acid is suspended in 120 ml of water and dissolved by adding 10 g of sodium hydroxide. The batch is held at 60° C. for 3 hours and then precipitated into 50 ml of semiconcentrated sulfuric acid. After several hours of agitation in an ice bath, the precipitate is vacuum-filtered, washed with water, and dried at 50° C., thus obtaining 25 g of 5-carbamoyl-3-hydroxymethyl-2,4,6-triiodobenzoic acid as a white powder with a decomposition point above 280° C. Yield: 88% of theory.

reactant | 5-cyano-3-hydroxymethyl-2,4,6-triiodobenzoic acid | 27.8 g | C(#N)C=1C(=C(C(=C(C(=O)O)C1I)I)CO)I | C9H4I3NO3
reactant | sodium hydroxide | 10 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
product | 5-carbamoyl-3-hydroxymethyl-2,4,6-triiodobenzoic acid | 25 g, Yield: 88% | C(N)(=O)C=1C(=C(C(=C(C(=O)O)C1I)I)CO)I | C9H6I3NO4
